US08912267B2
Preparation of furfuryl 2-bromopropanethioate
The synthetic procedure is similar to the reaction protocol for furfuryl 2 bromopropionate except that 2 furylmethanethiol (5.94 g, 0.052 mol) is used in place of 2-furylmethanol.

reactant | furfuryl 2 bromopropionate | BrC(C(=O)OCC1=CC=CO1)C | C8H9BrO3
reactant | furylmethanethiol | 0.052 mol, 5.94 g | O1C(=CC=C1)CS | C5H6OS
product | furfuryl 2-bromopropanethioate | BrC(C(OCC1=CC=CO1)=S)C | C8H9BrO2S
